US09340556B2
To a solution of (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((6R,7R)-2-((benzhydryl oxy)carbonyl)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate (27.5 g, 27.2 mmol) in Dichloromethane (DCM) (IL) at −40° C. was added dropwise a solution of m-CPBA (6.40 g, 28.6 mmol) in Dichloromethane (DCM) (200 mL) over 10 min. The mixture was stirred at the same temperature over 30 min. LCMS indicated completion of the reaction. The mixture was treated with 15% aq. Na2S2O3 (200 mL). The organic solution was separated and washed with 5% NaHCO3 (400 mL), brine (400 mL), dried (Na2SO4), filtered, and concentrated (temperature of the water bath should not be too high—apx. 25° C.). The residue was purified by CombiFlash automated silica gel chromatography (220 g column), eluting with EtOAc/Hexanes (0-60%) to afford (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((5R,6R,7R)-2-((benzhydryloxy)carbonyl)-3-(chloromethyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate (27.5 g, 25.4 mmol, 94% yield) as a light yellow foaming solid. LCMS: (M+H)+: 1026.3

reactant | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((6R,7R)-2-((benzhydryl oxy)carbonyl)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate | 27.2 mmol, 27.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2SCC1CCl)NC(\C(\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=N/O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C)=O)=O | C47H49Cl2N5O12S2
reactant | m-CPBA | 28.6 mmol, 6.40 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2S2O3 | 200 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | Dichloromethane | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((5R,6R,7R)-2-((benzhydryloxy)carbonyl)-3-(chloromethyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate | 25.4 mmol, 27.5 g, 94% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2[S@@](CC1CCl)=O)NC(\C(\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=N/O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C)=O)=O | C47H49Cl2N5O13S2
